US08957203B2
Step 2: Preparation of (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid
To a solution of (2S,4R)-methyl 1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate (2.2 g, 5.1 mmole) in THF/water (20 mL, 1:1) was added LiOH (650 mg, 15 mmole) followed by 5 mL of methanol at room temperature. The reaction mass was stirred at room temperature for overnight. The solvent was evaporated under reduced pressure and the residue was diluted with water and acidified with aqueous 1.5 N HCl solution. The aqueous solution was extracted with ethyl acetate (20 mL×3). The combined organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to get desired product (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid (1.8 g, 85%) as white solid. MS: MS m/z 411.2 (M+−1).

reactant | (2S,4R)-methyl 1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate | 5.1 mmole, 2.2 g | C(C)(C)(C)OC(=O)NC(C(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC)[C@@H](CC(CCC=C)C)C | C22H38N2O6
reactant | LiOH | 15 mmole, 650 mg | [Li+].[OH-]
reactant | methanol | 5 mL | CO | CH4O
solvent | THF water | 20 mL | C1CCOC1.O
product | (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 1.8 g, 85% | C(C)(C)(C)OC(=O)NC(C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)C | C21H36N2O6
